US07960425B2
Synthesis of 5-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic Acid 2-propylamide
1-[4-Hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone (50 mg, 0.18 mmol, synthesized in accordance with WO2004/108683), 5-hydrazinocarbonylthiophene-2-carboxylic acid 2-propylamide (40 mg, 0.18 mmol) prepared in Reference Synthetic Example 3 and p-toluenesulfonic acid (6 mg) were heated with 2-propanol (1.8 mL) for 14 hours with reflux. After cooling, the solvent was evaporated, and the resulting solid was washed with 2-propanol to give 36 mg of the desired product (yield 42%).

reactant | 1-[4-Hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethanone | 0.18 mmol, 50 mg | OC=1C(=NN(C1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=O | C13H11F3N2O2
reactant | 5-hydrazinocarbonylthiophene-2-carboxylic acid 2-propylamide | 0.18 mmol, 40 mg | CC(C)NC(=O)C=1SC(=CC1)C(=O)NN | C9H13N3O2S
reactant | p-toluenesulfonic acid | 6 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 2-propanol | 1.8 mL | CC(C)O | C3H8O
product | 5-{1-[4-hydroxy-1-methyl-5-(4-trifluoromethylphenyl)-1H-pyrazol-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carboxylic Acid 2-propylamide | 36 mg, yield 42% | CC(C)NC(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=NN(C(=C1O)C1=CC=C(C=C1)C(F)(F)F)C | C22H22F3N5O3S
